US09029544B2
(3R,9S)-4-tert-Butyl-9-(tert-butyldimethylsilyloxy)-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]
30 mg (3R,9S)-9-(tert-butyldimethylsilyloxy)-7,7-dimethyl-4-(1-methylcyclopropyl)-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran] are dissolved in 3 ml acetic acid and 1 ml acetic acid anhydride. 30 mg Platinum-(IV)-oxide are added and the mixture is hydrogenated for 2 hours at 60° C. and 3 bar. The catalyst is filtered off and washed with methanol. The liquid phases are combined and the solvents are evaporated in vacuo. The residue is chromatographed on silica gel (petrole ether/ethylacetate 100:0 to 90:10).

reactant | (3R,9S)-9-(tert-butyldimethylsilyloxy)-7,7-dimethyl-4-(1-methylcyclopropyl)-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran] | 30 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C3=C(C(=NC2CC(C1)(C)C)C1(CC1)C)[C@H](OC31CCOCC1)C1=CC=C(C=C1)C(F)(F)F | C34H46F3NO3Si
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | Platinum-(IV)-oxide | 30 mg | [Pt](=O)=O
product | (3R,9S)-4-tert-Butyl-9-(tert-butyldimethylsilyloxy)-7,7-dimethyl-3-(4-(trifluoromethyl)phenyl)-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran] | C(C)(C)(C)C1=NC=2CC(C[C@@H](C2C2=C1[C@H](OC21CCOCC1)C1=CC=C(C=C1)C(F)(F)F)O[Si](C)(C)C(C)(C)C)(C)C | C34H48F3NO3Si
